data/rdb19/train.csv
rxn,smiles,ea
4777,[C:1]([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([C:8]([H:19])([H:20])[H:21])([O:9][C:10](=[O:11])[C:12]([H:22])([H:23])[H:24])[H:18])([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:1]([H:2])([H:3])([H:4])[C:7]([C:8]([H:19])([H:20])[H:21])([O:9][C:10](=[O:11])[C:12]([H:22])([H:23])[H:24])[H:18].[C:5]([C:6]([H:16])[H:17])([H:13])([H:14])[H:15],69.05238028470194
3435,[C:17]([O:18][C:19](=[O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])=[C:5]([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8].[H:14][C:17]([H:24])([H:25])[H:26].[O:18][C:19](=[O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31],64.41102236573352
652,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([O:6])([N:7]([H:17])[H:18])[O:21][O:20][C:19]([H:22])([H:23])[H:24])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]1([H:13])[C:5]([N:7]([H:17])[H:18])([O:21][O:20][C:19]([H:22])([H:23])[H:24])[O:6]1)([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:14])([H:15])[H:16],59.84285524033476
4225,[C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([C:19]([H:20])[H:21])[C:22](=[O:23])[O:24][H:31])([H:25])([H:26])[H:27].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]=[C:6]([H:11])[H:12])([H:8])([H:9])[H:10].[C:7]([H:13])([H:14])([H:15])[C:19]([C:17]([C:16]([H:25])([H:26])[H:27])([C:18]([H:28])([H:29])[H:30])[C:22](=[O:23])[O:24][H:31])([H:20])[H:21],61.59946879534982
4359,[C:16]([C:17]([C:18]([H:19])[O:20][C:21](=[O:22])[C:23]([H:29])([H:30])[H:31])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[O:20][C:21](=[O:22])[C:23]([H:29])([H:30])[H:31])[H:27])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:11])([H:12])[H:28])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],29.0113844985608
3849,[C:13]([C:14]([C:15]([H:25])([H:26])[H:27])([C:16]([H:17])[H:18])[C:19](=[O:20])[O:21][H:28])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][C:16]([C:14]([C:13]([H:22])([H:23])[H:24])([C:15]([H:25])([H:26])[H:27])[C:19](=[O:20])[O:21][H:28])([H:17])[H:18],17.341118184034713
2573,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([O:21][C:22](=[C:23]([H:28])[H:29])[H:27])([H:24])([H:25])[H:26]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])([H:10])[O:21][C:22](=[C:23]([H:28])[H:29])[H:27])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([H:24])([H:25])[H:26],58.816084901744034
150,[C:12]([C:13]([C:14]([C:15]([H:28])([H:29])[H:30])([c:16]1[c:17]([H:31])[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]1[H:35])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:13]([C:14]([C:15]([H:28])([H:29])[H:30])([c:16]1[c:17]([H:31])[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]1[H:35])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:12]([H:22])([H:23])[H:24])([H:6])([H:7])[H:8],62.628007139486726
1704,[C:15]([C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:15]([C:16]([C:17]([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])([H:5])[C:18]([H:28])([H:29])[H:30])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],53.93266023037722
1861,[C:15]([C:16](=[O:17])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[O:17][C:16]([C:15]([H:21])([H:22])[H:23])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:11])[H:12])([H:8])([H:9])[H:10],36.691630249260925
1898,[N+:1](=[C:2]([O-:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7].[O:11]([O:12])[H:13]>>[H:6][O:11][H:13].[N:1](=[C:2]([O:3][O:12])[C:4](=[C:5]([H:9])[H:10])[H:8])[H:7],61.96197547268821
